US05514691
N-(4-Bromo-3-methyl-5-isoxazolyl)-2-toluenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 2-toluenesulfonyl chloride according to the procedures described in Example 1b. The crude product was purified by recrystallization from ethyl acetate/hexanes to give white crystalline solid, m.p. 93°-96° C., yield 88%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 2-toluenesulfonyl chloride | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-2-toluenesulfonamide | yield 88% | BrC=1C(=NOC1NS(=O)(=O)C=1C(=CC=CC1)C)C | C11H11BrN2O3S
